US06809097B1
Using an analogous procedure to that described for Example 15, 4-chloro-6-methoxy-7-(3-pyrrolidin-1-ylpropoxy)quinoline hydrochloride (236 mg, 0.6 mmol), (prepared as described for the starting material in Example 31), was reacted with 4-chloro-2-fluoroaniline (80 μl, 0.72 mmol) in 2-pentanol (5 ml) to give 4-(4-chloro-2-fluoroanilino)-6-methoxy-7-(3-pyrrolidin-1-ylpropoxy)quinoline hydrochloride (124 mg, 42%).

reactant | 4-chloro-6-methoxy-7-(3-pyrrolidin-1-ylpropoxy)quinoline hydrochloride | 0.6 mmol, 236 mg | Cl.ClC1=CC=NC2=CC(=C(C=C12)OC)OCCCN1CCCC1
reactant | 4-chloro-2-fluoroaniline | 0.72 mmol, 80 μl | ClC1=CC(=C(N)C=C1)F | C6H5ClFN
solvent | 2-pentanol | 5 ml | CC(CCC)O | C5H12O
product | 4-(4-chloro-2-fluoroanilino)-6-methoxy-7-(3-pyrrolidin-1-ylpropoxy)quinoline hydrochloride | 124 mg, 42% | Cl.ClC1=CC(=C(NC2=CC=NC3=CC(=C(C=C23)OC)OCCCN2CCCC2)C=C1)F | InChI=1S/C23H25ClFN3O2.ClH/c1-29-22-14-17-19(27-20-6-5-16(24)13-18(20)25)7-8-26-21(17)15-23(22)30-12-4-11-28-9-2-3-10-28;/h5-8,13-15H,2-4,9-12H2,1H3,(H,26,27);1H
